US06900307B1
2,4,6-trimethylphenylsulfonyl chloride (500 mg, 2.3 mmol) was dissolved in acetone (60 mL), and then NaI (3.4 g, 23 mmol) and fluoroacetic anhydride (1.45 mL, 6.9 mmol) were added and the mixture was stirred at room temperature for one hour. The reaction solution was concentrated, water was added, extraction was performed with ether and the organic layer was further washed with aqueous sodium thiosulfate, water and saturated saline. After drying over magnesium sulfate and vacuum concentration, the residue was purified with a silica gel column (hexane) to obtain 2,4,6-trimethylphenyldisulfide as a light yellow crystalline compound (231 mg, 0.76 mmol, 67% yield). The NMR and mass spectral data for the obtained compound were as follows:

reactant | 2,4,6-trimethylphenylsulfonyl chloride | 2.3 mmol, 500 mg | CC1=C(C(=CC(=C1)C)C)S(=O)(=O)Cl | C9H11ClO2S
reactant | NaI | 23 mmol, 3.4 g | [Na+].[I-]
reactant | fluoroacetic anhydride | 6.9 mmol, 1.45 mL | FCC(=O)OC(CF)=O | C4H4F2O3
solvent | acetone | 60 mL | CC(=O)C | C3H6O
product | 2,4,6-trimethylphenyldisulfide | CC1=C(C(=CC(=C1)C)C)SSC1=C(C=C(C=C1C)C)C | C18H22S2
